US07176204B2
3-(4-Formylphenoxy)pyridine
By the similar procedure to that in Referential example 6, using 3-hydroxypyridine and 4-hydroxybenzaldehyde as starting materials, the title compound was obtained as a yellow oil.

reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 3-(4-Formylphenoxy)pyridine | C(=O)C1=CC=C(OC=2C=NC=CC2)C=C1 | C12H9NO2
